US08383629B2
A vial equipped with a flea stirbar was charged with (±)-(E)-1-(3-amino-7-bromo-2,3-dihydrospiro[indene-1,4′-piperidine]-1′-yl)-3-(2-(trifluoromethyl)phenyl)prop-2-en-1-one TFA salt (9 mg, 0.015 mmol), i-Pr2NEt (0.01 mL) and CH2Cl2 (1 mL). MeNCO (0.05 mL, 0.085 mmol) was added. The mixture was stirred at rt for 3 h and evaporated to dryness. The residue was purified by prep HPLC to afford (±)-(E)-1-(7-bromo-1′-(3-(2-(trifluoromethyl)phenyl)acryloyl)-2,3-dihydrospiro[indene-1,4′-piperidine]-3-yl)-3-methylurea (2.9 mg, 59%). LC-MS Method 1 tR=1.77, min, m/z=536, 538.

reactant | (±)-(E)-1-(3-amino-7-bromo-2,3-dihydrospiro[indene-1,4′-piperidine]-1′-yl)-3-(2-(trifluoromethyl)phenyl)prop-2-en-1-one TFA salt | 0.015 mmol, 9 mg | OC(=O)C(F)(F)F.NC1CC2(CCN(CC2)C(\C=C\C2=C(C=CC=C2)C(F)(F)F)=O)C2=C(C=CC=C12)Br
reactant | i-Pr2NEt | 0.01 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | MeNCO | 0.085 mmol, 0.05 mL | CN=C=O | C2H3NO
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | (±)-(E)-1-(7-bromo-1′-(3-(2-(trifluoromethyl)phenyl)acryloyl)-2,3-dihydrospiro[indene-1,4′-piperidine]-3-yl)-3-methylurea | 2.9 mg, 59% | BrC=1C=CC=C2C(CC3(CCN(CC3)C(\C=C\C3=C(C=CC=C3)C(F)(F)F)=O)C12)NC(=O)NC | C25H25BrF3N3O2
